US05679696
A mixture of 3-hydroxy-4-methoxybenzaldehyde (20.0 g), anhydrous potassium carbonate (26.2 g) and 2-bromopropane (18.3 mL) in dry dimethylformamide (300 mL) is stirred and heated at 55°-65° C. for 24 hours. The cooled mixture is poured into water and extracted with ethyl acetate. The extract is dried over magnesium sulfate and concentrated in vacuo at 40° C., to give 4-methoxy-3-prop-2-yloxybenzaldehyde, in the form of an oil (24.2 g).

reactant | 3-hydroxy-4-methoxybenzaldehyde | 20.0 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | potassium carbonate | 26.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 18.3 mL | BrC(C)C | C3H7Br
reactant | water | O | H2O
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 4-methoxy-3-prop-2-yloxybenzaldehyde | COC1=C(C=C(C=O)C=C1)OC(C)C | C11H14O3
